US04038312
A stirred mixture of 4.90 g (30 mmol) of hexamethylphosphorous triamide, 6.00 g (30 mmol) of 1,4,8,11-tetraazacyclotetradecane, and 30 ml of dry toluene is heated to 80°-90°, under nitrogen for 16 hr, then refluxed for 8 hr. The hot solution is filtered under N2 and concentrated, and the residue is sublimed at 60°-70° (0.3 mm) to give 5.45 g (80%) of waxy, white solid 1,4,8,11-tetraaza-15-phosphatetracyclo[6.6.1.04,15.011,15 ]pentadecane.

reactant | hexamethylphosphorous triamide | 30 mmol, 4.90 g | CN(P(N(C)C)N(C)C)C | C6H18N3P
reactant | 1,4,8,11-tetraazacyclotetradecane | 30 mmol, 6.00 g | N1CCNCCCNCCNCCC1 | C10H24N4
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1,4,8,11-tetraaza-15-phosphatetracyclo[6.6.1.04,15.011,15 ]pentadecane | N12CCN3CCCN4CCN(CCC1)P234 | C10H21N4P
